US04590192
3-Ethoxy-4-nitro-benzoisothiazole-1,1-dioxide
Ethanol (100 ml) was added to a solution of 3-chloro-4-nitro-benzoisothiazole-1,1-dioxide (0.86 g) in dichloromethane (110 ml). The resulting solution was allowed to stand overnight at room temperature. Removal of the solvent in vacuo gave an amorphous brown solid, which was triturated under ether (100 ml) to give the title compound as a white solid (0.82 g), mpt 190°-191° C.

reactant | Ethanol | 100 ml | C(C)O | C2H6O
reactant | 3-chloro-4-nitro-benzoisothiazole-1,1-dioxide | 0.86 g | ClC1=NS(C2=C1C(=CC=C2)[N+](=O)[O-])(=O)=O | C7H3ClN2O4S
solvent | dichloromethane | 110 ml | ClCCl | CH2Cl2
product | 3-Ethoxy-4-nitro-benzoisothiazole-1,1-dioxide | 0.82 g | C(C)OC1=NS(C2=C1C(=CC=C2)[N+](=O)[O-])(=O)=O | C9H8N2O5S
